US08084448B2
B. (1,1-Dimethyl-2-oxo-ethyl)-carbamic Acid Tert-butyl Ester
To a solution of [1-(methoxymethyl-carbamoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (1.6 g, 7 mmol) in ether (30 mL) at −78° C. is added lithium aluminum hydride (9.8 mL of 1.0M in ether) dropwise. The mixture is warmed to 0° C. and stirred for 40 min. Aqueous KHSO4 (20 mL of 0.5M solution) is added and the mixture is extracted with ether. The organic solution is washed sequentially with 10% citric acid (2×), 5% NaHCO3 (2×) and brine. The solution is dried over magnesium sulfate and the solvent is removed under reduced pressure to afford the title compound.

reactant | [1-(methoxymethyl-carbamoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 7 mmol, 1.6 g | C(C)(C)(C)OC(NC(C)(C)C(NCOC)=O)=O | C11H22N2O4
reactant | lithium aluminum hydride | 1.0M, 9.8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | KHSO4 | 0.5M, 20 mL | OS(=O)(=O)[O-].[K+]
solvent | ether | 30 mL | CCOCC | C4H10O
product | (1,1-Dimethyl-2-oxo-ethyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC(C=O)(C)C)=O | C9H17NO3
